US05438052
4,7-Dichloro-2,2-diphenyl-1,3-benzodioxol-5-methanol (250 mg) (0.67 mmol), 108 mg (0.67 mmol) of N-hydroxyphthalimide and 175 mg (0.67 mmol) of triphenylphosphine are suspended in 20 ml of absolute tetrahydrofuran. 128 mg (0.73 mmol) of diethyl azodicarboxylate are added dropwise at 0° C. while stirring. The mixture is stirred at 0° C. for 1 hour and at room temperature for 24 hours. Subsequently, the solvent is removed in a high vacuum. The residue is crystallized and recrystallized from ethanol/diethyl ether. There are obtained 230 mg of N-[(4,7-dichloro-2,2-diphenyl-1,3-benzodioxol-5-yl)methoxy]phthalimide as white crystals of m.p. 127°-129° C.

reactant | 4,7-Dichloro-2,2-diphenyl-1,3-benzodioxol-5-methanol | 0.67 mmol, 250 mg | ClC1=C(C=C(C=2OC(OC21)(C2=CC=CC=C2)C2=CC=CC=C2)Cl)CO | C20H14Cl2O3
reactant | N-hydroxyphthalimide | 0.67 mmol, 108 mg | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 0.67 mmol, 175 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.73 mmol, 128 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[(4,7-dichloro-2,2-diphenyl-1,3-benzodioxol-5-yl)methoxy]phthalimide | 230 mg | ClC1=C(C=C(C=2OC(OC21)(C2=CC=CC=C2)C2=CC=CC=C2)Cl)CON2C(C=1C(C2=O)=CC=CC1)=O | C28H17Cl2NO5
